US08293735B2
[1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-cyclopropyl-amine
Prepared according to the method used in the preparation of [1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-cyclopropylmethyl-amine using cyclopropylamine in place of cyclopropanemethylamine. The title compound was obtained as a pale yellow solid (38 mg, 17%).

reactant | [1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-cyclopropylmethyl-amine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)NCC2CC2)N2CCOCC2 | C20H28ClN5OS
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | [1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-cyclopropyl-amine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)NC2CC2)N2CCOCC2 | C19H26ClN5OS
